US08017610B2
(54a) 1-[4-Fluoro-3-(trifluoromethyl)benzoyl]azetidine
Commercially available 4-fluoro-3-(trifluoromethyl)benzoic acid (230 mg, 1.10 mmol) was dissolved in dichloromethane (50 mL), and azetidine hydrochloride (120 mg, 1.28 mmol), HATU (550 mg, 1.45 mmol) and N,N-diisopropylethylamine (0.50 mL, 2.87 mmol) were added, followed by stirring at room temperature for 4 hours under nitrogen atmosphere. 0.5N hydrochloric acid (100 mL) was added, and extraction was carried out with dichloromethane (100 mL). The organic layer was washed with saturated brine, and subsequently dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure, and the resulting residue was purified using silica gel column chromatography (elution solvent: ethyl acetate/hexane=60%-80%) to afford the desired compound (211 mg, yield 78%) as a colorless liquid.

reactant | 4-fluoro-3-(trifluoromethyl)benzoic acid | 1.10 mmol, 230 mg | FC1=C(C=C(C(=O)O)C=C1)C(F)(F)F | C8H4F4O2
reactant | azetidine hydrochloride | 1.28 mmol, 120 mg | Cl.N1CCC1
reactant | HATU | 1.45 mmol, 550 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N,N-diisopropylethylamine | 2.87 mmol, 0.50 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | hydrochloric acid | 0.5N, 100 mL | Cl | ClH
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | 1-[4-Fluoro-3-(trifluoromethyl)benzoyl]azetidine | 211 mg, yield 78% | FC1=C(C=C(C(=O)N2CCC2)C=C1)C(F)(F)F | C11H9F4NO
